US05066640
344 g (2.45 moles) of o-methylbenzyl chloride and 3.5 moles of 25% strength aqueous NaOH solution were added dropwise to a refluxed, thoroughly stirred solution of 455 g (3.5 moles) of ethyl acetoacetate, 35 g (0.11 moles) of tetrabutylammonium bromide and 1.2 liters of toluene in the course of 2 hours, simultaneously from two dropping funnels. Thereafter, stirring was continued for a further 2 hours with refluxing. After the reaction solution had cooled, water was added, the phases were separated and the organic phase was washed once with water, once with dilute phosphoric acid and again with water and was then stirred with solid sodium bicarbonate. The mixture was filtered, the solution was freed from toluene and the residue was subjected to vacuum distillation over a 10 cm Vigreux column. 390 g (68% of the theoretical yield) of ethyl 2-(o-methylbenzyl)-acetoacetate of boiling point 100°-105° C. at 0.01 mm Hg were obtained.

reactant | o-methylbenzyl chloride | 2.45 moles, 344 g | CC1=C(CCl)C=CC=C1 | C8H9Cl
reactant | NaOH | [OH-].[Na+]
reactant | ethyl acetoacetate | 3.5 moles, 455 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | toluene | 1.2 liters | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 0.11 moles, 35 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | ethyl 2-(o-methylbenzyl)-acetoacetate | CC1=C(CC(C(=O)OCC)C(=O)C)C=CC=C1 | C14H18O3
